US04678778
The triethylamine salt of S-(sec-butyl)ethylphosphonotrithioic acid was prepared as follows: 14.0 g (0.056 mole) of ethyl thionophosphine sulfide was dissolved in tetrahydrofuran; then 11.2 g (0.124 mole) of sec-butyl mercaptan was added, all at once. Then, 11.3 g (0.112 mole) triethylamine was added dropwise. The mixture was stirred at room temperature, then refluxed for 15 minutes. The solvent was removed in vacuo, leaving the acid salt (24.1 g, 68% of theoretical yield) as a semi-solid.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl thionophosphine sulfide | 0.056 mole, 14.0 g | C(C)P(=S)=S | C2H5PS2
reactant | sec-butyl mercaptan | 0.124 mole, 11.2 g | C(C)(CC)S | C4H10S
reactant | triethylamine | 0.112 mole, 11.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | S-(sec-butyl)ethylphosphonotrithioic acid | C(C)(CC)SP(=S)(S)CC | C6H15PS3
